US09399646B2
Step 3: (E)-3-(4-((E)-1-(1H-Benzo[d][1,2,3]triazol-5-yl)-2-phenylbut-1-en-1-yl)phenyl)acrylic acid
An aqueous solution of LiOH (0.22 g, 9.4 mmol) was added to a solution of (E)-ethyl 3-(4-((E)-1-(1H-benzo[d][1,2,3]triazol-5-yl)-2-phenylbut-1-en-1-yl)phenyl)acrylate (0.2 g, 0.47 mmol) in THF-EtOH (1:1, 24 mL) at room temperature, and the resulting mixture was stirred overnight. The reaction was monitored by LCMS. Upon completion, 1N aqueous HCl was added until the pH was 3. Then, the mixture was diluted with water and extracted with ethyl acetate (3×100 mL). The combined organic layers were washed with water (100 mL), washed with brine (50 mL), dried over sodium sulfate, filtered, and concentrated to give the crude product. This crude material was purified on a silica gel column eluted with 0-20% methanol in dichloromethane affording the title compound as an off-white solid (0.12 g). 1H NMR (300 MHz, DMSO-d6): δ 15.65 (br, 1H), 12.29 (br, 1H), 7.92 (d, 1H), 7.78 (s, 1H), 7.48-7.35 (m, 3H), 7.24-7.13 (m, 7H), 6.91 (d, 2H), 6.37 (d, 1H), 2.39 (q, 2H), 0.89 (t, 3H); LCMS: 396 (M+H)+.

reactant | LiOH | 9.4 mmol, 0.22 g | [Li+].[OH-]
reactant | (E)-ethyl 3-(4-((E)-1-(1H-benzo[d][1,2,3]triazol-5-yl)-2-phenylbut-1-en-1-yl)phenyl)acrylate | 0.47 mmol, 0.2 g | N1N=NC2=C1C=CC(=C2)\C(=C(/CC)\C2=CC=CC=C2)\C2=CC=C(C=C2)/C=C/C(=O)OCC | C27H25N3O2
reactant | HCl | 1N | Cl | ClH
solvent | THF EtOH | 24 mL | C1CCOC1.CCO
solvent | water | O | H2O
product | (E)-3-(4-((E)-1-(1H-Benzo[d][1,2,3]triazol-5-yl)-2-phenylbut-1-en-1-yl)phenyl)acrylic acid | N1N=NC2=C1C=CC(=C2)\C(=C(/CC)\C2=CC=CC=C2)\C2=CC=C(C=C2)/C=C/C(=O)O | C25H21N3O2
